US04670593
N-Isopropyldifluoroacetamide
A solution of 20 grams (0.16 mole) of ethyl difluoroacetate in 20 milliliters ethyl alcohol was added slowly in a solution of 9.5 grams (0.16 mole) isopropylamine amine and 5 drops of ethylene glycol in 30 milliliters ethyl alcohol. The temperature rose slowly to 27° C. The mixture was then refluxed for 3 days. After this reflux period, the solution was evaporated at 100 millimeters and the residue was distilled at atmospheric pressure to yield 18.0 grams, b.p. 86°-88°, identified by infrared spectroscopy as the title compound.

reactant | ethyl difluoroacetate | 0.16 mole, 20 grams | FC(C(=O)OCC)F | C4H6F2O2
reactant | isopropylamine | 0.16 mole, 9.5 grams | C(C)(C)N | C3H9N
solvent | ethyl alcohol | 20 milliliters | C(C)O | C2H6O
catalyst | ethylene glycol | 5 drops | C(CO)O | C2H6O2
solvent | ethyl alcohol | 30 milliliters | C(C)O | C2H6O
product | N-Isopropyldifluoroacetamide | C(C)(C)NC(C(F)F)=O | C5H9F2NO
